US06576787B1
A mixture of 0.1 mol of cis-decalin, 0.5 mol of biacetyl, 10 mmol of N-hydroxyphthalimide, 1 mmol of acetylacetonatocobalt(II), and 100 ml of acetic acid was stirred at 75° C. in an oxygen atmosphere at atmospheric pressure for 4 hours. The reaction mixture was concentrated to about 20% by weight and was then extracted with ethyl acetate, and the extract was concentrated and was then washed with hexane to yield 4a-acetyl-8a-hydroxy-cis-decalin (yield: 30%). The conversion rate from cis-decalin was 68%.

reactant | cis-decalin | 0.1 mol | C1CCC[C@@H]2CCCC[C@H]12 | C10H18
reactant | biacetyl | 0.5 mol | C(=O)(C)C(=O)C | C4H6O2
reactant | N-hydroxyphthalimide | 10 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4a-acetyl-8a-hydroxy-cis-decalin | yield: 30% | C(C)(=O)[C@@]12CCCC[C@]2(CCCC1)O | C12H20O2
